US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-propionyl-4-benzhydrylaminobutyric acid and ethyl 5-benzhydrylaminovalerate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-propionyl-4-benzhydrylaminobutyryl]-5-benzhydrylaminovaleric acid.

reactant | N-propionyl-4-benzhydrylaminobutyric acid | C(CC)(=O)N(CCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C20H23NO3
reactant | ethyl 5-benzhydrylaminovalerate | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCC(=O)OCC | C20H25NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
product | N-[N-propionyl-4-benzhydrylaminobutyryl]-5-benzhydrylaminovaleric acid | C(CC)(=O)N(CCCC(=O)N(CCCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C38H42N2O4
